US06552067B2
Analogous to the procedure described for Example 1A, Step C, 5-[3-hydroxy-4-(3-trifluoromethyl-phenyl)-butyl]-pyrrolidin-2-one (1.19 g, 3.95 mmol) was protected with tert-butyldimethylsilyl chloride (893 mg, 6.22 mmol). Purification by medium pressure chromatography eluting with EtOAc provided 5-[3-(tert-butyl-dimethyl-silanyloxy)-4-(3-trifluoromethyl-phenyl)-butyl]-pyrrolidin-2-one. 1H NMR (CDCl3) δ7.47-7.32 (m, 4H), 5.73 (m, 1H), 3.86 (m, 1H), 3.59 (m, 1H), 2.75 (m, 2H), 2.35-2.20 (m, 3H), 1.70-1.40 (m, 5H), 0.81 (s, 9H), −0.05 (d, 3H), −0.3 (d, 3H); MS 416.1 (M+1).

reactant | 5-[3-hydroxy-4-(3-trifluoromethyl-phenyl)-butyl]-pyrrolidin-2-one | 3.95 mmol, 1.19 g | OC(CCC1CCC(N1)=O)CC1=CC(=CC=C1)C(F)(F)F | C15H18F3NO2
reactant | tert-butyldimethylsilyl chloride | 6.22 mmol, 893 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
product | 5-[3-(tert-butyl-dimethyl-silanyloxy)-4-(3-trifluoromethyl-phenyl)-butyl]-pyrrolidin-2-one | C(C)(C)(C)[Si](OC(CCC1CCC(N1)=O)CC1=CC(=CC=C1)C(F)(F)F)(C)C | C21H32F3NO2Si
